US04446318
A 1.66 g quantity of 2-mercaptobenzoxazole, 18 ml of acetonitrile and 2.72 g of 7-ACA were added to 14.9 g of DCPA with stirring under cooling at 10° C., and the reaction was allowed to proceed at 15° to 17° C. for 40 minutes. The reaction solution was cooled with ice and poured into 120 g of ice-water. The precipitate was recovered by filtration, washed with water (20 ml×4) and acetone successively, and dried thereby affording 3.35 g (92.3% of yield) of 7-amino-3-[(benzoxazol-2-yl)thiomethyl]-3-cephem-4-carboxylic acid.

reactant | 2-mercaptobenzoxazole | SC=1OC2=C(N1)C=CC=C2 | C7H5NOS
reactant | 7-ACA | 2.72 g | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)N)SC1)C(=O)O | C10H12N2O5S
reactant | DCPA | 14.9 g | COC(=O)C1=C(C(=C(C(=C1Cl)Cl)C(=O)OC)Cl)Cl | C10H6Cl4O4
solvent | acetonitrile | 18 ml | C(C)#N | C2H3N
product | 7-amino-3-[(benzoxazol-2-yl)thiomethyl]-3-cephem-4-carboxylic acid | 3.35 g, 92.3% | NC1[C@@H]2N(C(=C(CS2)CSC=2OC3=C(N2)C=CC=C3)C(=O)O)C1=O | C15H13N3O4S2
